### PR TITLE
A generic lemma to prove the continuity of inverse functions

### PR DESCRIPTION
**Pull request by ybertot**
and its instantiation to prove that sqrt is continuous

However, there is a doubt about the usefulness of such a lemma.  Most functions for which we need an inverse are actually derivable (x ^ 2, tan, sin, cos, exp), and there is a formula for the derivative of the inverse of a derivable function that might be more useful.

### CODE REVIEW

**Comment by thery** [comment]
I am looking for the inverse of `ln` and I need something like : 
```
Lemma continuous_inverse (f g : R -> R) x :  
  (\forall z \near x, g (f z) = z)  ->
  (\forall z \near x, {for z, continuous f})  ->
  {for x, continuous g}.
```
Any idea how this could be proved?

**Comment by thery** [comment]
Great! Do you think it would be possible to prove the generic lemma once and forall and not have
to prove the increasing bit for each injective continuous function?

File: theories/inverse_continuous.v [hunk 1]
```diff
@@ -0,0 +1,329 @@
...
+have xab : x \in `[a, b] by rewrite strict_to_large_itv // in_itv /= aLx.
+have ifab : If f a b.
+  by rewrite /If=> u v uin vin fufv; rewrite -(fK u uin) fufv fK.
+have [incr | abs] := near_injective_monotone ifab ctf; last first.
+  move: (abs a b); rewrite !in_itv /= !lexx ltW // ltW // leNgt aLb.
+  by move=> /(_ isT isT).
+apply/cvg_distP=> _ /posnumP[e].
+have /andP [xmex xxpe] : x - e%:num < x < x + e%:num.
+  by rewrite ltr_subl_addr cpr_add; apply/andP.
+set c := Num.max a (x - e%:num); set d := Num.min (x + e%:num) b.
```
Comment (ybertot) [inline theories/inverse_continuous.v:210]: It would be better to have a wlog step 4 lines above, where you show that e can be taken small enough for `` `]x-e, x+e[ `` to be inside `` `]a,b[``

**Comment by ybertot** [comment]
The failures seem to be unrelated  to the content of the PR?  Is it possible to restart the compilation?

File: theories/inverse_continuous.v [hunk 2]
```diff
@@ -0,0 +1,419 @@
...
+  have fK' : {in `[a, b], cancel (-%R \o f)(g \o -%R)}.
+    by move=> x; rewrite /= opprK; exact: fK.
+  suff ct_gopp : {in `](-f a), (-f b)[, continuous (g \o -%R)}.
+    rewrite (_ : g = (g \o -%R) \o -%R); last first.
+      by apply: funext => x; rewrite /= opprK.
+    move=> x xin; apply: continuous_comp.
+      by rewrite forE; apply: opp_continuous.
+    rewrite forE; apply: ct_gopp.
+    by rewrite oppr_itvoo !opprK.
+  move=> x xin; apply: main => //.
```
Comment (thery) [inline theories/inverse_continuous.v:343]: ```move=> x xin; apply: main => //; first by rewrite /= ltr_oppr opprK.```

File: theories/inverse_continuous.v [hunk 3]
```diff
@@ -0,0 +1,419 @@
...
+  rewrite -(fK a) ?in_itv /= ?lexx ?(ltW aLb) //.
+  by rewrite abs ?(ltW faLfb) // in_itv /= lexx (ltW faLfb).
+have gK := interval_injective_continuous_bijective aLb ctf incrf fK.
+by apply: monotone_surjective_continuous.
+Qed.
+
+Lemma sqr_continuous : continuous (exprz (R := R) ^~ 2).
+Proof.
+move => x s.
+rewrite (_ : exprz (R := R) ^~ 2 = fun x : R => x * x); last first.
```
Comment (thery) [inline theories/inverse_continuous.v:374]:
```
rewrite (_ : (fun x => x ^ 2) = (fun x => x * x)); last first.
```

File: theories/inverse_continuous.v [hunk 4]
```diff
@@ -0,0 +1,419 @@
...
+  by  apply: funext=> y; rewrite exprSz expr1z.
+rewrite exprSz expr1z; move: x s.
+change (continuous ((fun x : R * R => x.1 * x.2) \o (fun u => (u, u)))).
```
Comment (thery) [inline theories/inverse_continuous.v:377]: simply `by apply: continuousM.`

File: theories/inverse_continuous.v [hunk 5]
```diff
@@ -0,0 +1,419 @@
...
+Definition strict_increasing (f : R -> R) :=
+  forall x y, x < y -> f x < f y.
+
+Definition monotone (f : R -> R) :=
+  {mono f : y z / y <= z} \/ {mono f : y z /~ y <= z}.
+
+Let Cf (f : R -> R) a b := {in `[a, b], continuous f}.
+Let If (f : R -> R) a b := {in `[a, b] &, injective f}.
+Let Mf (f : R -> R) a b := {in `[a, b] &, {mono f : x y / x <= y}}.
+
```
Comment (thery) [inline theories/inverse_continuous.v:28]: Maybe also add `Let MTf (f : R -> R) a b := 
  {in `[a, b] &, {mono f : x y / x <= y}} \/
  {in `[a, b] &, {mono f : x y /~ x <= y}}.`

File: theories/inverse_continuous.v [hunk 6]
```diff
@@ -0,0 +1,419 @@
...
+Lemma near_injective_monotone (f : R -> R) (a b : R) :
+  If f a b -> Cf f a b ->
+  {in `[a, b] &, {mono f : x y / x <= y}} \/
```
Comment (thery) [inline theories/inverse_continuous.v:31]: ```MTf f a b```

File: theories/inverse_continuous.v [hunk 7]
```diff
@@ -0,0 +1,419 @@
...
+  apply: IVT => //; first by move=> d dIab; apply/fC/acIab.
+  by case: ltrgtP faLfc; rewrite // faLfb // ltW.
+move=> fdEfb; move: fbLfc.
+have : d <= c <= b by rewrite cLb  (itvP dI).
+rewrite (fI _  _ _ _ fdEfb) ?in_itv /= ?lexx ?(itvP dI) ?aLb //.
+  by case: (ltrgtP b) => //= ->; rewrite ltxx.
+by rewrite (le_trans _ cLb) //  (itvP dI).
+Qed.
+
+Lemma strict_to_large_itv (a b x : R) :
```
Comment (thery) [inline theories/inverse_continuous.v:105]: on one line

File: theories/inverse_continuous.v [hunk 8]
```diff
@@ -0,0 +1,419 @@
...
+  x \in `]a, b[ -> x \in `[a, b].
+Proof.
+by rewrite !in_itv /= => /andP[aLx xLb]; rewrite !le_eqVlt aLx xLb !orbT.
+Qed.
+
+(* This belongs in mathcomp *)
+Lemma oppr_min (x y : R) : - Num.min x y = Num.max (-x) (- y).
+Proof.
```
Comment (thery) [inline theories/inverse_continuous.v:113]: Proof on one line

File: theories/inverse_continuous.v [hunk 9]
```diff
@@ -0,0 +1,419 @@
...
+by rewrite /Num.max ltr_oppr !opprK; case: (ltrgtP x y).
+Qed.
+
+Lemma oppr_max (x y : R) : - Num.max x y = Num.min (-x) (- y).
+Proof.
```
Comment (thery) [inline theories/inverse_continuous.v:118]: Proof on one line

File: theories/inverse_continuous.v [hunk 10]
```diff
@@ -0,0 +1,419 @@
...
+move=> y ayb.
+rewrite (near_shift y 0); near=> z; rewrite /= sub0r subrK; near: z.
+by rewrite near_simpl; apply: near_in_interval.
+Grab Existential Variables. all: end_near. Qed.
+
+Lemma inverse_monotone (a b : R) (f g : R -> R) :
+  a < b ->
+  {in `[a, b], continuous f} ->
+  {in `[a, b], cancel f g} ->
+  {in `[(Num.min (f a) (f b)), (Num.max (f a) (f b))] &, {mono g : x y / x <= y}} \/
```
Comment (thery) [inline theories/inverse_continuous.v:152]: ``` MTf g (Num.min (f a) (f b)) (Num.max (f a) (f b))```

File: theories/inverse_continuous.v [hunk 11]
```diff
@@ -0,0 +1,419 @@
...
+ {in `[a, b], cancel f g} ->
+ {in `[(f a), (f b)], cancel g f}.
+Proof.
+move=> aLb ctf monf fK y yin.
+have faLfb : f a <= f b by rewrite monf ?in_itv /= ?lexx ltW.
+have := IVT (ltW aLb) ctf; case: (lerP (f a) (f b)) (faLfb)=> // _ _=> ivt.
+by case: (ivt _ yin)=> x xin <-; rewrite fK.
+Qed.
+  
+Lemma near_opp (a : R) (P : R -> Prop) :
```
Comment (thery) [inline theories/inverse_continuous.v:207]: nearN?

File: theories/inverse_continuous.v [hunk 12]
```diff
@@ -0,0 +1,419 @@
...
+  rewrite ltNge -monf //.
+    by rewrite -ltNge gK //.
+  rewrite in_itv /= -(fK a) ?mong // ltW //=.
+    by rewrite (le_trans guLgy) // ltW.
+  by rewrite (le_lt_trans faLfgyme fgymeLu).
+near=> u; apply: below.
+suff : u \in `]f (g y - e%:num), (f b)[ by move=> uin; rewrite (itvP uin).
+near: u; apply: near_in_interval; rewrite in_itv /= ?(itvP yin) andbT.
+rewrite -[X in _ < X](gK y); last by rewrite strict_to_large_itv.
+rewrite ltNge monf //.
```
Comment (thery) [inline theories/inverse_continuous.v:313]:
```rewrite ltNge monf -?ltNge //; first by rewrite in_itv /= (ltW aLgy) (ltW gyLb).
```

**Review by thery — COMMENTED** [review]
seems ok.
Still have to understand how to link it to [this](https://github.com/thery/analysis/blob/1e98b26313131c612074fc3feccdd6c4852c4349/theories/exp.v#L205)

**Comment by thery** [comment]
Maybe an alternative formulation of the ffrst theorem is :
```
{near a, injective f} ->
(\near a, continuous f} ->
{near a, {mono f : x y / x <= y}} \/ {near a, {mono f : x y /~ x <= y}}
```

File: theories/inverse_continuous.v [hunk 13]
```diff
@@ -0,0 +1,419 @@
...
+  forall x y, x < y -> f x < f y.
+
+Definition monotone (f : R -> R) :=
+  {mono f : y z / y <= z} \/ {mono f : y z /~ y <= z}.
+
+Let Cf (f : R -> R) a b := {in `[a, b], continuous f}.
+Let If (f : R -> R) a b := {in `[a, b] &, injective f}.
+Let Mf (f : R -> R) a b := {in `[a, b] &, {mono f : x y / x <= y}}.
+
+Lemma near_injective_monotone (f : R -> R) (a b : R) :
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:29]: This lemma is misnamed since it does not use `near` at all: maybe `segment_inj_monotone` ?

File: theories/inverse_continuous.v [hunk 14]
```diff
@@ -0,0 +1,419 @@
...
+  by have := lt_trans fbLfc fcLfa; rewrite ltNge faLfb.
+case: (ltrgtP (f b) (f c))=> //= fbLfc.
+have [d dI]: exists2 d, d \in `[a, c] & f d = f b.
+  apply: IVT => //; first by move=> d dIab; apply/fC/acIab.
+  by case: ltrgtP faLfc; rewrite // faLfb // ltW.
+move=> fdEfb; move: fbLfc.
+have : d <= c <= b by rewrite cLb  (itvP dI).
+rewrite (fI _  _ _ _ fdEfb) ?in_itv /= ?lexx ?(itvP dI) ?aLb //.
+  by case: (ltrgtP b) => //= ->; rewrite ltxx.
+by rewrite (le_trans _ cLb) //  (itvP dI).
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:102]: This proof can be compressed, I will suggest something later, but if I do not it should not delay the merge.

File: theories/inverse_continuous.v [hunk 15]
```diff
@@ -0,0 +1,419 @@
...
+Qed.
+
+Lemma strict_to_large_itv (a b x : R) :
+  x \in `]a, b[ -> x \in `[a, b].
+Proof.
+by rewrite !in_itv /= => /andP[aLx xLb]; rewrite !le_eqVlt aLx xLb !orbT.
+Qed.
+
+(* This belongs in mathcomp *)
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:111]: Please open a PR in mathcomp so that it is merged for 1.13.0 :smile:

File: theories/inverse_continuous.v [hunk 16]
```diff
@@ -0,0 +1,419 @@
...
+by move: zclose; rewrite /ball_ /= -opprD normrN opprK.
+Qed.
+
+Lemma monotone_surjective_continuous (a b : R) (f g : R -> R) :
+  a < b ->
+  {in `[a, b] &, {mono f : x y / x <= y}} ->
+  {in `[(f a), (f b)] &, {mono g : x y / x <= y}} ->
+  {in `[a, b], cancel f g} ->
+  {in `[(f a), (f b)], cancel g f} ->
+  {in `](f a), (f b)[ , continuous g}.
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:222]:
```suggestion
  {in `](f a), (f b)[, continuous g}.
```

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Great contribution.
Please add all of this to `normed_type.v`
I think the lemmas with `\/` are difficult to use, we should also provide the two alternatives for each: one with hypothesis `f a <= f b` and one with `f a >= f b`.

**Comment by CohenCyril** [comment]
> Maybe an alternative formulation of the ffrst theorem is :
> 
> ```
> {near a, injective f} ->
> (near a, continuous f} ->
> {near a, {mono f : x y / x <= y}} \/ {near a, {mono f : x y /~ x <= y}}
> ```

No, this lemma is less general, the naming is wrong, not the statement.

**Comment by CohenCyril** [comment]
> > Maybe an alternative formulation of the ffrst theorem is :
> > ```
> > {near a, injective f} ->
> > (near a, continuous f} ->
> > {near a, {mono f : x y / x <= y}} \/ {near a, {mono f : x y /~ x <= y}}
> > ```
> 
> No, this lemma would less general, the naming is wrong, not the statement.

Of course, we could/should also have the "near version", which should be an almost trivial specialization of the one on a segment.

**Comment by thery** [comment]
> I think the lemmas with `\/` are difficult to use, we should also provide the two alternatives for each: one with hypothesis `f a <= f b` and one with `f a >= f b`.

This is the way the actual proof works, It proves f a <= f b and then prove the other taking -f

**Comment by CohenCyril** [comment]
> > I think the lemmas with `\/` are difficult to use, we should also provide the two alternatives for each: one with hypothesis `f a <= f b` and one with `f a >= f b`.
> 
> This is the way the actual proof works, It proves f a <= f b and then prove the other taking -f

I know ;)

**Comment by thery** [comment]
so stating the two alternatives before should simplify the proof.

File: theories/inverse_continuous.v [hunk 17]
```diff
@@ -0,0 +1,481 @@
...
+  move: (aLb); rewrite ltNge -(fK b) ?in_itv /= ?lexx ?(ltW aLb) //.
+  rewrite -(fK a) ?in_itv /= ?lexx ?(ltW aLb) //.
+  by rewrite abs ?(ltW faLfb) // in_itv /= lexx (ltW faLfb).
+have gK := interval_injective_continuous_bijective aLb ctf incrf fK.
+by apply: monotone_surjective_continuous.
+Qed.
+
+Lemma continuous_inverse  (f g : R -> R) x :
+  (\forall z \near x, g (f z) = z) ->
+  (\forall z \near x, {for z, continuous f}) ->
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:373]:
```suggestion
  {near x, cancel f g} ->
  {near x, continuous f} ->
```

File: theories/inverse_continuous.v [hunk 18]
```diff
@@ -0,0 +1,481 @@
...
+  {for f x, continuous g}.
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:374]: I guess the conclusion could be strengthened to `{near f x, continuous g}`?

File: theories/inverse_continuous.v (hunk 15 above)
Comment (ybertot) [reply theories/inverse_continuous.v:111]: When looking for the place where this should be included, I found the following lemma
`real_oppr_min`  which expresses the required property in a more elegant way.  However, it feels strange that we need to prove the `_ \is real` property, while all elements of a realType are real (actually, all elements of a realDomainType).
Should the theorem `num_real` be included in the hint database for // (is there such a hint database)?

Comment (ybertot) [reply theories/inverse_continuous.v:105]: Anyway, I just check oppr_min and oppr_max already exist.  I did not search for them in the right way (it did not come to my mind that they were morphism lemmas).

File: theories/inverse_continuous.v [hunk 19]
```diff
@@ -0,0 +1,409 @@
...
+  by rewrite /If=> u v uin vin fufv; rewrite -(fK u uin) fufv fK.
+have [incrf | abs] := segment_injective_monotone ifab ctf; last first.
+  move: (abs a b); rewrite !in_itv /= !lexx ltW // ltW // leNgt aLb.
+  by move=> /(_ isT isT).
+have incrg := left_inverse_increasing aLb faLfb' ctf fK.
+have gK := interval_injective_continuous_bijective aLb ctf incrf fK.
+by apply: monotone_surjective_continuous.
+Qed.
+
+Lemma continuous_inverse  (f g : R -> R) (x : R) :
```
Comment (thery) [inline theories/inverse_continuous.v:306]: Maybe one could use `segment_injective_monotone` instead of `wlog`

```
Lemma continuous_inverse  (f g : R -> R) (x : R) :
  {near x, cancel f g} -> {near x, continuous f} -> {near (f x), continuous g}.
Proof.
move=> [e egt0 fK] [e' e'gt0 ctf].
set e'' := Num.min e e' / 2.
have e''gt0 : 0 < e''.
  by apply: divr_gt0; [rewrite /Num.min; case: ifP | rewrite ltr0Sn].
have [e''lte e''lte'] : e'' < e /\ e'' < e'.
  have e''lt2 : e'' < e'' + e'' by rewrite ltr_addl //.
  rewrite !(lt_le_trans e''lt2) // /e'' -mulrDl (le_trans (midf_le _).2) //;
    by case: (lerP e e') => // strict; rewrite ltW.
have fK' : {in `[x - e'', x + e''], cancel f g}.
  move=> y; rewrite in_itv /= => /andP [yin1 yin2]; apply: fK=> /=.
  rewrite -opprB normrN real_ltr_distl ?num_real // (lt_le_trans _ yin1) /=.
    by rewrite (le_lt_trans yin2) // ltr_add2.
  by rewrite ltr_add2 ltr_oppl opprK.
have ctf' : {in `[x - e'', x + e''], continuous f}.
  move=> y; rewrite in_itv /= => /andP [yin1 yin2]; apply: ctf => /=.
  rewrite -opprB normrN real_ltr_distl ?num_real // (lt_le_trans _ yin1) /=.
    by rewrite (le_lt_trans yin2) // ltr_add2.
  by rewrite ltr_add2 ltr_oppl opprK.
have cmp1 : x - e'' < x by rewrite ltr_subl_addr ltr_addl.
have cmp2 : x < x + e'' by rewrite ltr_addl.
have cmp : x - e'' < x + e'' by rewrite (lt_trans cmp1).
have ifx : If f (x - e'') (x + e'').
  by move=> v w vin win fq; rewrite -(fK' v) // fq fK'.
have [mfx |mfx] := segment_injective_monotone ifx ctf'.
  near=> z; apply: inverse_increasing_continuous ctf' _ _ _ => //.
    by rewrite mfx ?ltW // in_itv /= ?lexx ltW.
  near: z; rewrite near_simpl; apply: near_in_interval.
  by rewrite in_itv /= !(ltNge, mfx, in_itv) /= -?ltNge ?(lexx, cmp1, ltW).
near=> y; rewrite -[y]opprK (_ : g = (g \o -%R \o -%R)); last first.
  by apply: funext=> u; rewrite /= opprK.
apply: continuous_comp; rewrite opprK; first by apply: continuousN.
have ctNf: {in `[(x - e''), (x + e'')], continuous (- f)}.
  by move=> z zI; apply/continuousN/ctf'.
apply: inverse_increasing_continuous ctNf _ _ _ => //.
- by rewrite lter_oppr opprK mfx ?ltW // in_itv /= ?lexx ltW.
- by move=> z zI; rewrite /= opprK fK'.
rewrite oppr_itvoo !opprK.
near: y; rewrite near_simpl; apply: near_in_interval.
by rewrite in_itv /= !(ltNge, mfx, in_itv) /= -?ltNge ?(lexx, cmp2, ltW).
Grab Existential Variables. all:end_near. Qed.
```

**Comment by thery** [comment]
Here is the other proof I need

```
Lemma inverse_swap_continuous  (f g : R -> R) (x : R) :
  {near x, cancel f g} -> {near x, continuous f} -> {near (f x), cancel g f}.
Proof.
move=> [e egt0 fK] [e' e'gt0 ctf].
set e'' := Num.min e e' / 2.
have e''gt0 : 0 < e''.
  by apply: divr_gt0; [rewrite /Num.min; case: ifP | rewrite ltr0Sn].
have [e''lte e''lte'] : e'' < e /\ e'' < e'.
  have e''lt2 : e'' < e'' + e'' by rewrite ltr_addl //.
  rewrite !(lt_le_trans e''lt2) // /e'' -mulrDl (le_trans (midf_le _).2) //;
    by case: (lerP e e') => // strict; rewrite ltW.
have fK' : {in `[x - e'', x + e''], cancel f g}.
  move=> y; rewrite in_itv /= => /andP [yin1 yin2]; apply: fK=> /=.
  rewrite -opprB normrN real_ltr_distl ?num_real // (lt_le_trans _ yin1) /=.
    by rewrite (le_lt_trans yin2) // ltr_add2.
  by rewrite ltr_add2 ltr_oppl opprK.
have ctf' : {in `[x - e'', x + e''], continuous f}.
  move=> y; rewrite in_itv /= => /andP [yin1 yin2]; apply: ctf => /=.
  rewrite -opprB normrN real_ltr_distl ?num_real // (lt_le_trans _ yin1) /=.
    by rewrite (le_lt_trans yin2) // ltr_add2.
  by rewrite ltr_add2 ltr_oppl opprK.
have cmp1 : x - e'' < x by rewrite ltr_subl_addr ltr_addl.
have cmp2 : x < x + e'' by rewrite ltr_addl.
have cmp : x - e'' < x + e'' by rewrite (lt_trans cmp1).
have ifx : If f (x - e'') (x + e'').
  by move=> v w vin win fq; rewrite -(fK' v) // fq fK'.
have [mfx |mfx] := segment_injective_monotone ifx ctf'.
  near=> z.
  apply: interval_injective_continuous_bijective _ ctf' _ _ _ _ => //.
  apply: strict_to_large_itv.
  near: z; rewrite near_simpl; apply: near_in_interval.
  by rewrite in_itv /= !(ltNge, mfx, in_itv) /= -?ltNge ?(lexx, cmp1, ltW).
near=> y; suff : ((f \o -%R) \o -g) y = y by rewrite /= opprK.
have ctNf' : {in `[ (- x) - e'', (-x) + e''], continuous (f \o -%R)}.
  move=> z /itvP zI; apply: continuous_comp; first by apply: continuousN.
  apply: ctf'.
  by rewrite in_itv /= lter_oppr opprD opprK zI lter_oppl opprD zI.
apply: interval_injective_continuous_bijective _ ctNf' _ _ _ _.
- by rewrite -opprD lter_oppl opprD opprK.
- move=> z1 z2 /itvP z1I /itvP z2I.
  by rewrite mfx // 1?lter_oppl ?opprK // in_itv /= lter_oppl lter_oppr !opprD
             opprK ?(z1I, z2I).
- move=> z /itvP zI; rewrite -[RHS](opprK z); congr (- _).
  apply: fK'.
  by rewrite in_itv /= lter_oppr opprD opprK zI lter_oppl opprD zI.
apply: strict_to_large_itv.
near: y; rewrite near_simpl; apply: near_in_interval.
rewrite in_itv /= !(opprD, opprK).
by rewrite !(ltNge, mfx, in_itv) /= -?ltNge ?(lexx, cmp2) // ltW // ltW.
Grab Existential Variables. all:end_near. Qed.
```

File: theories/inverse_continuous.v [hunk 20]
```diff
@@ -0,0 +1,452 @@
...
+  apply: triplet_injective_increasing
+     => [|x1 x2 /itvP x1I /itvP x2I |x1 /itvP x1I|] //.
+  - by apply: fI; rewrite in_itv /= (le_trans (_ : a <= y)) !(yI, x1I, x2I).
+  - by apply: fC; rewrite in_itv /= (le_trans (_ : a <= y)) !(yI, x1I).
+  by rewrite yLx xI.
+have : f x == f y -> x == y.
+  by move=> /eqP/fI-> //; rewrite in_itv /= !(xI, yI).
+by case: (ltrgtP x y); case: (ltrgtP (f x) (f y)) => // _ _ H1 H2 H3;
+     (case: (H1 isT) || case: (H2 isT) || case: (H3 isT)).
+Qed.
```
Comment (affeldt-aist) [inline theories/inverse_continuous.v:90]: What about using `total_homo_mono_in`?

```coq
Lemma segment_injective_increasing' (f : R -> R) (a b : R) :
  f a <= f b -> If f a b -> Cf f a b -> {in `[a, b] &, {homo f : x y / x < y}}.
Proof.
move=> fab fI fC x y xI yI; rewrite lt_neqAle => /andP[xy yx].
rewrite lt_neqAle; apply/andP; split; first by apply: contra xy => /eqP/fI ->.
have /andP[fax fxb] : f a <= f x <= f b by exact: triplet_injective_increasing.
suff /andP[-> //] : f x <= f y <= f b.
apply: triplet_injective_increasing => [|u v /itvP uI /itvP vI |z /itvP uI|] //.
- by apply: fI; rewrite in_itv /= (le_trans (_ : a <= x)) !(itvP xI, uI, vI).
- by apply: fC; rewrite in_itv /= (le_trans (_ : a <= x)) !(itvP xI, uI).
- by rewrite yx (itvP yI).
Qed.

Lemma segment_injective_increasing (f : R -> R) (a b : R) :
  f a <= f b -> If f a b -> Cf f a b -> Mf f a b.
Proof.
move=> fab fI fC.
by apply: total_homo_mono_in (segment_injective_increasing' fab fI fC) => //;
  [exact: lt_neqAle | exact: lt_neqAle | exact: le_anti | exact: le_total].
Qed.
```

**Review by affeldt-aist — COMMENTED** [review]
It removes one redundancy (and warnings but this is unrelated) but I am not sure about the naming of the intermediate lemma.

**Comment by affeldt-aist** [comment]
> It removes one redundancy (and warnings but this is unrelated) but I am not sure about the naming of the intermediate lemma.

Actually, `segment_injective_increasing'` might be `segment_injective_nondecreasing`
like in `sequences.v` where there is a `nondecreasing_seq` notation for the `homo` notation.

File: theories/inverse_continuous.v [hunk 21]
```diff
@@ -0,0 +1,458 @@
...
+right => x y xI yI.
+suff : (- f) y <= (- f) x = (y <= x) by rewrite ler_oppl opprK.
+apply: segment_injective_increasing xI => // [|x1 x2 x1I y1I U| x1 x1I].
+- by rewrite ler_oppl opprK.
+- by apply: fI => //; rewrite -[LHS]opprK [- f _]U opprK.
+by apply/continuousN/fC.
+Qed.
+
+Lemma strict_to_large_itv (a b x : R) : x \in `]a, b[ -> x \in `[a, b].
+Proof. by rewrite !in_itv /= => /andP[A B]; rewrite !le_eqVlt A B !orbT. Qed.
```
Comment (affeldt-aist) [inline theories/inverse_continuous.v:108]: What about using the `subset` notation?

```coq
Lemma strict_to_large_itv (a b : R) : {subset `]a, b[ <= `[a, b]}.
Proof. by move=> x; rewrite !in_itv /= => /andP[/ltW -> /ltW ->]. Qed.
```

File: theories/inverse_continuous.v [hunk 22]
```diff
@@ -0,0 +1,458 @@
...
+  by have := lt_trans fbLfc fcLfa; rewrite ltNge faLfb.
+case: (ltrgtP (f b) (f c))=> //= fbLfc.
+have [d dI]: exists2 d, d \in `[a, c] & f d = f b.
+  apply: IVT => //; first by move=> d dIab; apply/fC/acIab.
+  by case: ltrgtP faLfc; rewrite // faLfb // ltW.
+move=> fdEfb; move: fbLfc.
+have : d <= c <= b by rewrite cLb  (itvP dI).
+rewrite (fI _  _ _ _ fdEfb) ?in_itv /= ?lexx ?(itvP dI) ?aLb //.
+  by case: (ltrgtP b) => //= ->; rewrite ltxx.
+by rewrite (le_trans _ cLb) //  (itvP dI).
```
Comment (affeldt-aist) [inline theories/inverse_continuous.v:57]: I tried to use `subset_prop_in1` and make it shorter but the gain is not obvious. I let it here for the record. 

```coq
move=> faLfb fI fC /andP[aLc cLb].
have [faLfc|fcLfa|faEfc] /= := ltrgtP (f a) (f c).
- rewrite leNgt; apply/negP => fbLfc.
  move: (fbLfc); suff /eqP -> : c == b by rewrite ltxx.
  rewrite eq_le cLb /=.
  have [d /itvP dI fdEfb] : exists2 d, d \in `[a, c] & f d = f b.
    apply: IVT => //; last by case: ltrgtP faLfc; rewrite // faLfb // ltW.
    apply: subset_prop_in1 fC.
    by move=> x; rewrite !in_itv => /andP[->] /le_trans; exact.
  suff <- : d = b by rewrite dI.
  by apply: fI fdEfb; rewrite in_itv/= ?(lexx,dI,le_trans aLc,le_trans _ cLb).
- have [fbLfc|fcLfb|fbEfc] /= := ltrgtP (f b) (f c).
  + by have := lt_trans fbLfc fcLfa; rewrite ltNge faLfb.
  + move: (fcLfa); suff /eqP -> : c == a by rewrite ltxx.
    rewrite eq_le aLc andbT.
    have [d /itvP dI fdEfa] : exists2 d, d \in `[c, b] & f d = f a.
      apply: IVT => //; last by case: ltrgtP fcLfb => // _ _; rewrite ltW.
      apply: subset_prop_in1 fC.
      by move=> x; rewrite !in_itv => /andP[/(le_trans aLc) /= ->].
    suff <- : d = a by rewrite dI.
    by apply: fI fdEfa; rewrite in_itv/= ?(lexx,dI,le_trans aLc).
  + by move: fcLfa; rewrite -fbEfc ltNge faLfb.
- by rewrite -(fI _  _ _ _ faEfc) // in_itv /= ?lexx (le_trans aLc).
```

File: theories/inverse_continuous.v (hunk 20 above)
Comment (CohenCyril) [reply theories/inverse_continuous.v:90]: I suggest to inline the former inside the latter.
If there is an additional lemma to add it should be:
```coq
forall (f : R -> R) (a b : R), f a <= f b -> If f a b -> Cf f a b -> {in `[a, b] &, {mono f : x y / x < y}}.
```
which is a oneliner from the latter.

File: theories/inverse_continuous.v (hunk 21 above)
Comment (CohenCyril) [reply theories/inverse_continuous.v:108]: Normally this kind of goal used to be closed by `apply/subsetP; rewrite !ltW.` but it looks like that inequalities on bounds do not unfold anymore with mathcomp 1.12 ... @pi8027 do you have a solution for that?

File: theories/inverse_continuous.v [hunk 23]
```diff
@@ -0,0 +1,458 @@
...
+
+Let Cf (f : R -> R) a b := {in `[a, b], continuous f}.
+Let If (f : R -> R) a b := {in `[a, b] &, injective f}.
+Let Mf (f : R -> R) a b := {in `[a, b] &, {mono f : x y / x <= y}}.
+Let MTf (f : R -> R) a b :=
+  {in `[a, b] &, {mono f : x y / x <= y}} \/
+  {in `[a, b] &, {mono f : x y /~ x <= y}}.
+
+Lemma triplet_injective_increasing (f : R -> R) (a c b : R) :
+  f a <= f b -> If f a b -> Cf f a b -> a <= c <= b -> f a <= f c <= f b.
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:27]: I believe this is an internal lemma to `segment_injective_increasing` and should be inlined, because it is subsumed by it.

File: theories/inverse_continuous.v (hunk 21 above)
Comment (ybertot) [reply theories/inverse_continuous.v:108]: An alternative proof goes through `subitvP` : 

    Proof. by apply: subitvP; rewrite subitvE !bound_lexx. Qed.

I am scared by how difficult it was for me to find `bound_lexx`.  This is yet another example of the need to improve the Search command drastically.

By the way, How do you make that your code is colorized?

Comment (affeldt-aist) [reply theories/inverse_continuous.v:108]: By starting with 
```
```coq
```

File: theories/inverse_continuous.v [hunk 24]
```diff
@@ -0,0 +1,458 @@
...
+  apply: IVT => //; first by move=> d dIab; apply/fC/acIab.
+  by case: ltrgtP faLfc; rewrite // faLfb // ltW.
+move=> fdEfb; move: fbLfc.
+have : d <= c <= b by rewrite cLb  (itvP dI).
+rewrite (fI _  _ _ _ fdEfb) ?in_itv /= ?lexx ?(itvP dI) ?aLb //.
+  by case: (ltrgtP b) => //= ->; rewrite ltxx.
+by rewrite (le_trans _ cLb) //  (itvP dI).
+Qed.
+
+Lemma segment_injective_increasing (f : R -> R) (a b : R) :
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:60]: What about `continuous_inj_le_itvcc` (cf [`inj_eq`](https://github.com/math-comp/math-comp/blob/1c4a6d3ca17820f6c60f194ffa845f8c007c9d8f/mathcomp/ssreflect/eqtype.v#L423-L424))
I think for the sake of completeness, the theorem should actually be provided on any interval...

**Comment by CohenCyril** [comment]
I think all the shorthands that appear in statements should be removed from statements: I find `If`, `Cf`, and `Mf` unreadable. Please replace them by the body of the let in...

File: theories/inverse_continuous.v (hunk 22 above)
Comment (ybertot) [reply theories/inverse_continuous.v:57]: Thanks, I am integrating this variant in the proof, together with more uses of `subitvP` `subitvE`

File: theories/inverse_continuous.v (hunk 23 above)
Comment (ybertot) [reply theories/inverse_continuous.v:27]: Just did the inlining.

File: theories/inverse_continuous.v (hunk 24 above)
Comment (ybertot) [reply theories/inverse_continuous.v:60]: Is this a naming suggestion?

Comment (ybertot) [reply theories/inverse_continuous.v:60]: Anyway, I am not sure it holds for open intervals.

Comment (CohenCyril) [reply theories/inverse_continuous.v:60]: > Anyway, I am not sure it holds for open intervals.

I'm quite sure it does. The problem might be the condition `f a <= f b`, which you do not want to consider.
I think this is actually a flaw of the current phrasing. Maybe a precondition of the form `(exists x y, [x \in I, y \in I, x < y & f x <= f y])` would actually be more flexible and desirable than the specialization to `a` and `b` which does not make sense when a bound is excluded or infinite)

￼

Comment (CohenCyril) [reply theories/inverse_continuous.v:60]: > I think the lemmas with `\/` are difficult to use, we should also provide the two alternatives for each: one with hypothesis `f a <= f b` and one with `f a >= f b`.

Also when I said this, I did not mean to have you remove the statements with the `\/`, just derive them from the other ones.

**Comment by ybertot** [comment]
I did the replacement of If Cf and Mf, but only in main statements.  Inside proofs, I kept them.  Is that ok?

File: theories/inverse_continuous.v [hunk 25]
```diff
@@ -0,0 +1,556 @@
...
+- move=> _ _ _ x y; rewrite in_itv /= => /andP[aLx xLb]; move: bLa.
+  by rewrite ltNge (le_trans aLx).
+move=> _ _ _ x y; rewrite !in_itv /= -ab=> /le_anti -> /le_anti ->.
+by rewrite !lexx.
+Qed.
+
+Lemma segment_continuous_inj_monotone (f : R -> R) (a b : R) :
+  {in `[a, b], continuous f} -> {in `[a, b] &, injective f} ->
+  {in `[a, b] &, {mono f : x y / x <= y}} \/
+  {in `[a, b] &, {mono f : x y /~ x <= y}}.
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:196]: This can also be generalized to any interval.

Comment (ybertot) [reply theories/inverse_continuous.v]: done, but I have difficulties with name choice.  Also should we keep the ones with f a <= f b where a and b are extremities of a closed interval, or should this lemma be removed?

File: theories/inverse_continuous.v [hunk 26]
```diff
@@ -20,61 +20,45 @@ Let Cf (f : R -> R) a b := {in `[a, b], continuous f}.
...
-have /subitvP : (`[a, b] <= I)%O by rewrite itvcc_le ?aI ?(le_trans aLc cLb).
-by apply; rewrite in_itv/= ?aLc.
+move=> aI bI; rewrite !le_eqVlt.
+move=> /andP[] /orP[/eqP <- // | aLc] /orP [/eqP -> // | cLb].
+by rewrite (interval_is_interval aI bI) ?aLc.
 Qed.
 
 Lemma continuous_inj_le_itv (f : R -> R) (I : interval R) :
-  (exists x y, x \in I /\ y \in I /\ x < y /\ f x <= f y) ->
+  (exists x y, (x \in I) && (y \in I) && (x < y) && (f x <= f y)) ->
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:59]: Can you rarher use a quaternary conjuction? `[/\ ..., ..., & ...]`

File: theories/inverse_continuous.v [hunk 27]
```diff
@@ -61,16 +61,17 @@ Lemma continuous_inj_le_itv (f : R -> R) (I : interval R) :
   {in I &, {mono f : x y / x <= y}}.
 Proof.
 move: f.
+  have fxy (f : R -> R) : {in I &, injective f} -> forall x y,
+    x\in I -> y\in I -> x < y -> f x != f y.
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:65]:
```suggestion
    x \in I -> y \in I -> x < y -> f x != f y.
```

File: theories/inverse_continuous.v [hunk 28]
```diff
@@ -91,77 +91,61 @@ have stepper_main (f : R -> R) (a c b : R) :
         have cLb' : c <= b by rewrite ltW.
         apply: IVT => //; last by case: ltrgtP fcLfb; rewrite // !ltW.
         apply: sub_in1 fC => y; rewrite in_itv /= => /andP[?].
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:93]: do not `?` unless the goal is closed in the same line.

File: theories/inverse_continuous.v [hunk 29]
```diff
@@ -0,0 +1,551 @@
...
+                     ((b \in `[a, b]) = (a <= b)) *
+                     ((a \in `[a, b[) = (a < b)) *
+                     ((b \in `]a, b]) = (a < b)) *
+                     (a \in `[a, +oo[ ) *
+                     (a \in `]-oo, a]).
+Proof. by rewrite !(boundr_in_itv, boundl_in_itv). Qed.
+
+(* All uses of this lemma have been removed, replacing them with
+  uses of interval_is_interval, but it would be better if
+  is_interval used large comparisons instead of strict ones. *)
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:36]: https://github.com/math-comp/analysis/blob/804a5e060da46853ea14e29a720edab76ea79fa4/theories/normedtype.v#L2968-L2972

Gives the two characterization, one with strict inequalities, one with large. Both are useful depending on whether you want to prove or use.

File: theories/inverse_continuous.v [hunk 30]
```diff
@@ -0,0 +1,551 @@
...
+  x <= y -> (`[x, y] <= I)%O = ((x \in I) && (y \in I)).
+Proof.
+by move=> C; case: I => [[[] l| []] [[|] u| [|]]];
+  rewrite !subitvE ?in_itv -?andbA //=; apply/idP/idP;
+  repeat (move/andP=>[] ?); move=> ?; repeat (apply/andP; split=> //);
+  rewrite ?(le_trans C) ?(le_trans _ C) ?(lt_le_trans _ C) ?(le_lt_trans C).
+Qed.
+
+(* This is just an example showing how to use interval_is_interval
+  in the case of large comparisons. the lemma is not used otherwise.
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:47]: Use `is_intervalPle` instead

File: theories/inverse_continuous.v [hunk 31]
```diff
@@ -0,0 +1,551 @@
...
+- have fxLfu : f x < f u by have[] := high x u v fuLfv xI vI xLu ulv.
+  case: (ltrgtP y u) => [yLu | uLy | -> //]; first by case: (whole x y u).
+  by case: (low x u y).
+move: xLy; rewrite -xu => uLy.
+case: (ltrgtP y v)=> [yLv | vLy | -> //]; first by case: (whole u y v).
+by case: (low u v y).
+Qed.
+
+Lemma continuous_inj_ge_itv (f : R -> R) (I : interval R) :
+  (exists x y, (x \in I) && (y \in I) && (x < y) && (f y <= f x)) ->
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:152]: Use quaternary conjuction instead
```suggestion
  (exists x y, [/\ x \in I, y \in I, x < y & f y <= f x]) ->
```

File: theories/inverse_continuous.v [hunk 32]
```diff
@@ -0,0 +1,551 @@
...
+(* This is an example that appears in the following proof.  I think
+  there could be a use case for tactic that leads the user to proving
+  a conjunction by addressing the second component with the assumption
+  that the first one already holds. *)
+Fact itv_example (x e  : R):
+  0 < e -> [&& x < x + e, x - e < x & x - e < x + e].
+Proof.
+move=> e0; staged_split;[rewrite ltr_addl // | rewrite ltr_subl_addr //| ].
+(* Unfortunately, the name of the hypotheses could be useful here. *)
+eapply lt_trans; eassumption.
```
Comment (CohenCyril) [inline theories/inverse_continuous.v:435]: (untested)
```suggestion
move=> e0 [:xlt] [:xgt]; case/and3P; split.
- by abstract: xlt; rewrite ltr_addl.
- by abstract: xgt; rewrite ltr_subl_addr.
exact: lt_trans xgt.
```

File: theories/inverse_continuous.v (hunk 29 above)
Comment (ybertot) [reply theories/inverse_continuous.v:36]: I agree they are both useful, but by choosing to use the one with the "strongest" hypothesis by default, we make usage harder: is_intervalPle is a clumsy tool: implicit arguments don't do the right thing in this use case.

**Comment by thery** [comment]
is it ready to merge?

File: theories/normedtype.v [hunk 33]
```diff
@@ -3908,6 +3952,523 @@ Qed.
...
+  by rewrite ltNge (le_trans aLx).
+move=> _ _ _ x y; rewrite !in_itv /= -ab=> /le_anti -> /le_anti ->.
+by rewrite !lexx.
+Qed.
+  
+Let Cf (f : R -> R) a b := {in `[a, b], continuous f}.
+Let If (f : R -> R) a b := {in `[a, b] &, injective f}.
+Let Mf (f : R -> R) a b := {in `[a, b] &, {mono f : x y / x <= y}}.
+
+Lemma segment_left_inverse_increasing (a b : R) (f g : R -> R) :
```
Comment (thery) [inline theories/normedtype.v:4129]: I was wondering why there was not the assumption f a <= f b then I understood.
maybe a comment could be added.

Comment (thery) [reply theories/normedtype.v:4129]: should we have the variant `segment_left_inverse_decreasing`
with `[f b , f a]`?

Comment (ybertot) [reply theories/normedtype.v:4157]: This is delaying the merge of the main theorem for the sake of being complete with respect to less important by-products.
Anyway, I am adding the comment and the extra lemma in the next commit.

**Comment by ybertot** [comment]
@CohenCyril you requested changes long ago, and I think they were made, can you check?

File: theories/normedtype.v [hunk 34]
```diff
@@ -3801,6 +3801,50 @@ rewrite !near_simpl near_withinE near_simpl => Pf; near=> y.
...
+Proof.
+rewrite propeqE; split=> /= /nbhs_normP [_/posnumP[e] ye];
+apply/nbhs_normP; exists e%:num => // t; rewrite -ball_normE /= => et.
+  apply: ye; rewrite -ball_normE /= !opprD addrA addrACA subrr add0r.
+  by rewrite opprK addrC.
+have /= := ye (t - (x - y)); rewrite addrNK; apply.
+by rewrite -ball_normE /= opprB addrCA opprD addrA subrr add0r opprB.
+Qed.
+
+Lemma cvg_shift {T : Type} {K : numDomainType} {R : normedModType K}
```
Comment (CohenCyril) [inline theories/normedtype.v:3840]:
```suggestion
Lemma cvg_comp_shift {T : Type} {K : numDomainType} {R : normedModType K}
```

File: theories/normedtype.v [hunk 35]
```diff
@@ -3936,6 +3980,558 @@ Qed.
...
+  This does not expose the order between interval bounds. *)
+Lemma bound_itvE1 (a b : R): ((a \in `[a, b]) = (a <= b)) *
+                     ((b \in `[a, b]) = (a <= b)) *
+                     ((a \in `[a, b[) = (a < b)) *
+                     ((b \in `]a, b]) = (a < b)) *
+                     (a \in `[a, +oo[ ) *
+                     (a \in `]-oo, a]).
+Proof. by rewrite !(boundr_in_itv, boundl_in_itv). Qed.
+
+Definition bound_itvE := (bound_itvE1, boundr_in_itv, boundl_in_itv).
```
Comment (CohenCyril) [inline theories/normedtype.v:3998]: Why? Doesn't `bound_itvE1` subsume them all?

File: theories/normedtype.v [hunk 36]
```diff
@@ -3936,6 +3980,558 @@ Qed.
...
+
+End numDomainType.
+
+Lemma nearN {R : numFieldType} (a : R) (P : R -> Prop) :
+  (\forall x \near a,  P (- x)) <-> (\forall x \near (- a), P x).
```
Comment (CohenCyril) [inline theories/normedtype.v:4003]:
```suggestion
Lemma nearN {R : numFieldType} (a : R) (P : R -> Prop) :
  (\forall x \near a,  P (- x)) <-> (\forall x \near (- a), P x).
```

**Comment by CohenCyril** [comment]
@ybertot there are several naming problems, ordering of lemmas and too strong hypotheses here and there. I take the lock on this PR, please do not touch anything yet.

**Comment by thery** [comment]
@ybertot  @CohenCyril news?

**Comment by ybertot** [comment]
I had a direct discussion with @CohenCyril.  I won't be able to work on this PR before October.

**Comment by affeldt-aist** [comment]
> including backports to mathcomp

ltr_distlC`, `ler_distlC`, `subset_itv_oo_cc` backported to MathComp
(PR: https://github.com/math-comp/math-comp/pull/791)

File: theories/normedtype.v [hunk 37]
```diff
@@ -3936,6 +3990,600 @@ Qed.
...
+Proof.
+move=> aLb fC fK x y xfbfa yfbfa; rewrite -ler_opp2.
+apply: (@segment_can_le (- b) (- a) (f \o -%R) (- g));
+    rewrite /= ?ler_opp2 ?opprK//.
+  move=> z zab; apply: continuous_comp; first exact: continuousN.
+  by apply: fC; rewrite oppr_itvcc.
+by move=> z zab; rewrite -[- g]/(@GRing.opp _ \o g)/= fK ?opprK// oppr_itvcc.
+Qed.
+
+Notation "f @`[ a , b ]" := (`[minr (f a) (f b), maxr (f a) (f b)])
```
Comment (affeldt-aist) [inline theories/normedtype.v:4280]: These notations are intended to become global?

Comment (CohenCyril) [reply theories/normedtype.v:4280]: Would be nice.

**Comment by affeldt-aist** [comment]
> I will stop there for now... It needs a second pass to create `realfun.v`, dispatch various lemmas (including backports to mathcomp) where they belong and double check their names. There still are some generalizations to make on some auxiliary lemmas. Also the changelog must be update. @ybertot if you feel like doing it...

I did some work in this direction but I have to stop for now.
